US07183278B1
3-Hydroxy-4-methoxypicolinic acid hydrochloride
3-Benzyloxy-4-methoxypicolinic acid (8.3 g) was dissolved in 100 ml of methanol. Concentrated hydrochloric acid (2 ml) was added to the solution. The mixture was heated under reflux for 30 min. The reaction solution was concentrated under the reduced pressure. The residue was recrystallized from water-ethanol to give 3.6 g (yield 54.8%) of title compound as colorless powder.

reactant | 3-Benzyloxy-4-methoxypicolinic acid | 8.3 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1OC)C(=O)O | C14H13NO4
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 3-Hydroxy-4-methoxypicolinic acid hydrochloride | 3.6 g, yield 54.8% | Cl.OC=1C(=NC=CC1OC)C(=O)O | InChI=1S/C7H7NO4.ClH/c1-12-4-2-3-8-5(6(4)9)7(10)11;/h2-3,9H,1H3,(H,10,11);1H
